US06703422B2
5-Bromo-2,2-dimethyl-1-pentanol
Under argon, a suspension of LiBH4 (14.8 g, 646 mmol) in methylene chloride (600 mL) was stirred and methanol (25.6 mL, 20.2 g, 629 mmol) was added dropwise, taking care to keep the temperature below 30° C. To this mixture, a solution of ethyl 5-bromo-2,2-dimethylpentanoate (100.0 g, 392 mmol; prepared according to Kuwahara et al. Chem. Pharm. Bull 1997, 48, 1447) in methylene chloride (200 mL) was added dropwise over 20 minutes, and the solution was heated under reflux for 21 h. After chilling in an ice-bath, the reaction was quenched by adding H2O dropwise (100 mL). After the effervescence stopped, 2 N HCl (125 mL) was added dropwise and the solution was stirred until the effervescence ceased. The procedure was repeated with another portion of 2 N HCl (125 mL). The layers were separated, and the aqueous layer was extracted with an additional portion of methylene chloride (500 mL). The two organic portions were combined and washed with 2 N HCl (300 mL), then sat. NaHCO3 (300 mL). After drying the organics (Na2SO4), the solvent was evaporated to yield the product as a light yellow oil (77.6 g, 91% yield). 1H NMR (300 MHz, d6-DMSO), d (ppm): 4.42 (s, 1H); 3.45 (t, 2H, J=6.6); 3.08 (s, 2H); 1.84-1.69 (m, 2H); 1.27 (t, 2H, J=8.3); 0.78 (s, 6H). 13C NMR (75 Mhz, d6-DMSO), d (ppm): 69.7, 36.9, 35.7, 34.5, 27.4, 24.0.

reactant | LiBH4 | 646 mmol, 14.8 g | [Li+].[BH4-]
reactant | methanol | 629 mmol, 25.6 mL, 20.2 g | CO | CH4O
reactant | ethyl 5-bromo-2,2-dimethylpentanoate | 392 mmol, 100.0 g | BrCCCC(C(=O)OCC)(C)C | C9H17BrO2
solvent | methylene chloride | 600 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 5-Bromo-2,2-dimethyl-1-pentanol | 77.6 g, 91% yield | BrCCCC(CO)(C)C | C7H15BrO
